US07232836B2
Preparation of 3-chloro-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid
The following Example 9 illustrates an alternative preparation of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid, which can be used to prepare, for example, 3-bromo-N-[4-chloro-2-methyl-6-[[(1-methylethyl)amino]carbonyl]phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide and 3-bromo-N-[4-chloro-2-methyl-6-[(methylamino)carbonyl]phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide, by further steps illustrated in Examples 5 and 6.

reactant | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | 3-bromo-N-[4-chloro-2-methyl-6-[[(1-methylethyl)amino]carbonyl]phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C(=O)NC(C)C)Cl)C)C1=NC=CC=C1Cl | C20H18BrCl2N5O2
reactant | 3-bromo-N-[4-chloro-2-methyl-6-[(methylamino)carbonyl]phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C(=O)NC)Cl)C)C1=NC=CC=C1Cl | C18H14BrCl2N5O2
product | 3-chloro-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | ClC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5Cl2N3O2
